US06469042B1
Preparation of 2-bromo-4-chlorobenzenediazonium tetrafluoroborate
A solution of 2-bromo-4-chloroaniline (10.0 g, 48.4 mmol) and HBF4 in EtOH (60 mL) kept at 0° C. was treated with an aqueous solution (20 mL) of NaNO2 (3.34g, 48.4 mmol). After completion of the addition, diethyl ether (200 mL) was added to the mixture. The solid was collected by filtration, washed with water and dried under high vacuum affording the title compound (14.2 g, 96%) as white crystals.

reactant | 2-bromo-4-chloroaniline | 48.4 mmol, 10.0 g | BrC1=C(N)C=CC(=C1)Cl | C6H5BrClN
reactant | HBF4 | [H+].[B-](F)(F)(F)F
reactant | NaNO2 | 48.4 mmol, 20 mL, 3.34g | N(=O)[O-].[Na+]
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | EtOH | 60 mL | CCO | C2H6O
product | 2-bromo-4-chlorobenzenediazonium tetrafluoroborate | 14.2 g, 96% | F[B-](F)(F)F.BrC1=C(C=CC(=C1)Cl)[N+]#N | InChI=1S/C6H3BrClN2.BF4/c7-5-3-4(8)1-2-6(5)10-9;2-1(3,4)5/h1-3H;/q+1;-1
